US07902187B2
3-(6-chloro-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile.
Yellow oil (26% yield based on 73% conversion). Synthesized using 1-pyridin-3-yl-ethanol and 3-(6-chloro-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile. 1H NMR (300 MHz, CD3OD) δ, ppm: 9.27 (s, 1H), 9.20-9.00 (br m, 1H), 8.86 (d, 1H), 8.88-8.77 (m, 1H, overlapping with 8.86 ppm), 8.68 (s, 1H), 8.13 (br s, 1H), 7.87 (d, 1H), 7.68 (d, 1H), 6.17 (q, J=7.1 Hz, 1H), 2.19 (d, J=7.3 Hz, 3H); MS (EI) m/z 417.1 (MH)+.

reactant | 1-pyridin-3-yl-ethanol | N1=CC(=CC=C1)C(C)O | C7H9NO
reactant | 3-(6-chloro-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | ClC1=C2NC(NC2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)=O | C13H6ClN7O
product | 3-(6-chloro-8-oxo-9-(1-(pyridin-3-yl)ethyl)-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | 26% yield | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)C(C)C=2C=NC=CC2)=O | C20H13ClN8O
